US04001237
4-Amino-6,7-dimethyoxy-2-[4-(2-methylthiazole-5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride
The title compound was prepared from 2-methylthiazole-5-carbonyl chloride (0.42 g.) and 4-amino-6,7-dimethyoxy-2-(1-piperazinyl)quinazoline (0.75 g.) following previously described procedures. The product had a m.p. of 294°-297° C. with decomposition.

reactant | 2-methylthiazole-5-carbonyl chloride | 0.42 g | CC=1SC(=CN1)C(=O)Cl | C5H4ClNOS
reactant | 4-amino-6,7-dimethyoxy-2-(1-piperazinyl)quinazoline | 0.75 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethyoxy-2-[4-(2-methylthiazole-5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1=CN=C(S1)C | InChI=1S/C19H22N6O3S.ClH/c1-11-21-10-16(29-11)18(26)24-4-6-25(7-5-24)19-22-13-9-15(28-3)14(27-2)8-12(13)17(20)23-19;/h8-10H,4-7H2,1-3H3,(H2,20,22,23);1H
